* Simple Test Circuit for SimulatorV6
* This circuit consists of a voltage source, two resistors, and a capacitor.
* The voltage source provides a DC supply, and the resistor network along with the capacitor creates a simple RC divider.

V1 1 0 10           * Voltage source: 10V from node 1 to ground (node 0)
R1 1 2 1k           * Resistor: 1 kΩ between node 1 and node 2
R2 2 0 2k           * Resistor: 2 kΩ between node 2 and ground (node 0)
C1 2 0 1e-1         * Capacitor: 1 µF between node 2 and ground (node 0)

.end
