R1 1 2 100

C1 2 0 1e-6

L1 2 0 1e-3

V1 4 0 10

I1 5 3 0.02

G1 2 4 1 3 0.1

E1 1 5 2 4 2.0

F1 3 4 V1 1.5

H1 2 5 F1 0.5

D1 3 2 diodeModel

Q1 4 1 0 NPN

M1 2 5 0 MOSModel

.model diodeModel D IS=1e-14
.model NPN BJT
.model MOSModel MOS

.end
